Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Zosyn / vancomycin
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___ - Bedside decompressive exploratory laparotomy
___ - Abdominal washout and dressing change
___ - Abdominal washout and ___ patch placement
___ - ___ patch tightening
___ - ___ patch tightening
___ - Bedside washout and ___ patch
___ - Abdominal washout, ___ patch explantation and 
fascial closure
___ - Open tracheostomy
Multiple subsequent wound vac changes

 
History of Present Illness:
___ w history of heavy ETOH abuse presented to ___ 
yesterday ___ with abdominal pain one day after a heavy binge 
drinking and episode of trauma to upper abdomen, found to have 
lipase 13,500, elevated LFT, and RUQ US w concern for possible 
CBD stone. CT scan was not performed at OSH or at ___ thus 
far. He was transferred to ___ for ERCP.
However there was severe duodenal edema which distorted the 
major papilla, so the procedure was aborted without cannulation. 
During the procedure the patient developed progressively 
worsening hypoxia requiring emergent intubation, and was 
subsequently transferred to the FICU. Upon arrival there he was 
hypertensive to the 170s and tachycardic to the 130s, with low 
UOP ranging from ___. He has received approximately 13L 
fluid over the past 24hours. Over the past ___ hours, his UOP 
dropped to <10cc/hr and has become increasingly difficult to 
ventilate, with plateau pressures in the high ___ and peak 
pressures in the upper ___. He received a bolus of rocuronium 2 
hours ago, but no paralytics since, and is moving all 
extremities spontaneously.
 
Past Medical History:
PMH:
-Chronic inflammatory Demyelinating Polyneuropathy: Dense 
sensorimotor loss in bilateral lower extremities to midshin. 
Diagnosed in ___. 
-Anxiety

PSH:
-None

 
Social History:
___
Family History:
No known family history of hepatobiliary disorder. Hypertension, 
grandmother with diabetes. One cousin with ___. 
Bell's palsy in cousin, and another cousin with cystinosis (an 
autosomal recessive lysosomal storage disease). Both on mother's 
side. Mother with granuloma ___,
 

 
Physical Exam:
ADMISSION PHYSICAL EXAM 
GENERAL: Anxious, mild distress from pain. diaphoretic
HEENT: miotic pupils. MMM. PERRL.
NECK: supple. 
LUNGS: CTAB. Good airmovement 
CV: Tachycardic. RRR, normal S1, S2. No m/r/g
ABD: Distended/Obese, soft, mild tenderness. No rebound and 
guarding. 
EXT: WWP, no edema 
SKIN: No defects or bruising.
NEURO:  Anxious, oriented x3. Normal bulk and tone. Though thin 
LEs.  No tremor. Normal strength in upper extremities. ___ 
dorsiflexion bilaterally. Toes downgoing. Dense sensor loss 
below mid shin. ;
ACCESS:  PIV x2

DISCHARGE PHYSICAL EXAM:
Vitals:  Afebrile, VSS
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist  
CV: RRR, No M/G/R  
PULM: Clear to auscultation b/l, No W/R/R  
ABD: Soft, nondistended, nontender, no rebound or guarding, 
normoactive bowel sounds, no palpable masses. Midline wound vac 
in place. 
DRE: normal tone, no gross or occult blood  
Ext: No ___ edema, ___ warm and well perfused  
 
Pertinent Results:
  IMAGING:

+ RUQUS (___):  
 1. Mildly distended gallbladder without evidence of 
cholelithiasis,  
 intrahepatic, or extrahepatic biliary ductal dilatation.  
 2. Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination.  
 3. Mild splenomegaly.  
 + CXR (___): Low lung volumes. No evidence for acute 
cardiopulmonary process.  
 - EKG (___): Mild LVH  
 - MRCP (___): Evolving acute pancreatitis with a focus of 
necrosis at the level of the pancreatic neck. The main 
pancreatic duct appears intact.Moderate peripancreatic fluid is 
minimally changed in amount and appears slightly more organized 
since the ___ examination.  
 + RUQUS (___):  
 1. Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination.  
 2. Moderate splenomegaly.  
 3. Decompressed gallbladder without evidence for cholecystitis. 
 
 - UEUS (___):  
 1. Tiny non-occlusive thrombus within the right internal 
jugular vein.  
 2. Assessment of the left upper extremity limited by catheter 
dressings. The IJ and vessels in the left upper extremity from 
the mid upper arm to the antecubital fossa could not be imaged. 
No evidence of deep venous thrombosis in the left subclavian, 
axillary, or imaged proximal and distal portions of the left 
cephalic, brachial, basilic veins.  
 3. Left PICC within a brachial and subclavian vein.  
 - TTE (___): Poor image quality in evaluation of wall motion 
and valvular function. The left atrium and right atrium are 
normal in cavity size. Left ventricular wall thickness, cavity 
size, and global systolic function are normal (LVEF>70%).  
 - CT abd/pelvis (___):  
 PANCREAS: The pancreas remains edematous. Originating from the 
head of the pancreas, there is a acute necrotic collection with 
a suggestion of increased organization with a thin rim 
anteriorly, measuring 5.1 x 3.1 cm (02:36). There is a second 
collection in the body of the pancreas with the suggestion of 
organization, measuring 3.8 x 2.1 cm. The tail of the pancreas 
may also have a component of acute necrotic collection, which 
may be organizing, though difficult to assess without 
administration of contrast. There is no pancreatic ductal 
dilatation. Anterior to the pancreatic head acute necrotic 
collection, there is another collection that is beginning to 
organize, measuring 10.1 x 5.9 cm (02:30). A right lower 
quadrant acute necrotic collection measures 1.9 x 3.8 cm (2:60). 
There is residual layering retroperitoneal fluid, tracking along 
the anterior and posterior bilateral perirenal fascia, decreased 
compared to ___.  

  MICROBIOLOGY:

- BCx (___): STAPHYLOCOCCUS, COAGULASE NEGATIVE  
 - UCx (___): No growth.  
 - BCx (___): No growth.  
 - UCx (___): No growth.  
 - BCx (___): No growth.  
 - Sputum cx (___): No growth.  
 - Stool cx (___): C. diff.  
 - Blood fungal/AFB cx (___): NGTD, pending.  
 - Ascites fluid cx (___): NGTD, pending.  
 - BCx (___): NGTD, pending.  
 - PICC catheter tip cx (___): NGTD, pending.  
- c dif ___ negative

  LAB VALUES:

***
ADMISSION LABS:
___ 05:30AM URINE  MUCOUS-MANY
___ 05:30AM URINE  GRANULAR-5* HYALINE-13*
___ 05:30AM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 05:30AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-300 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-SM  UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 05:30AM URINE  COLOR-RED APPEAR-Cloudy SP ___
___ 05:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS* 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 05:30AM URINE  UHOLD-HOLD
___ 05:30AM URINE  HOURS-RANDOM
___ 05:50AM   PLT COUNT-249
___ 05:50AM   NEUTS-86.7* LYMPHS-5.9* MONOS-6.2 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-14.50* AbsLymp-0.98* AbsMono-1.04* 
AbsEos-0.01* AbsBaso-0.04
___ 05:50AM   WBC-16.7* RBC-5.05 HGB-17.0 HCT-48.1 MCV-95 
MCH-33.7* MCHC-35.3 RDW-13.3 RDWSD-46.5*
___ 05:50AM   TRIGLYCER-192*
___ 05:50AM   ALBUMIN-4.1 CALCIUM-8.6 PHOSPHATE-5.7* 
MAGNESIUM-1.7
___ 05:50AM   ALBUMIN-4.1 CALCIUM-8.6 PHOSPHATE-5.7* 
MAGNESIUM-1.7
___ 05:50AM   ALT(SGPT)-130* AST(SGOT)-116* ALK PHOS-64 TOT 
BILI-1.9* DIR BILI-0.6* INDIR BIL-1.3
___ 05:50AM   estGFR-Using this
___ 05:50AM   GLUCOSE-192* UREA N-10 CREAT-0.8 SODIUM-143 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-22 ANION GAP-25*
___ 06:07AM   LACTATE-5.2*
___ 07:32AM   GLUCOSE-204* LACTATE-5.6* K+-4.4
___ 12:00PM   ___ PTT-25.3 ___
___ 12:00PM   PLT COUNT-206
___ 12:00PM   NEUTS-86.8* LYMPHS-6.2* MONOS-5.9 EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-13.69* AbsLymp-0.97* AbsMono-0.93* 
AbsEos-0.00* AbsBaso-0.07
___ 12:00PM   WBC-15.8* RBC-5.17 HGB-17.2 HCT-48.8 MCV-94 
MCH-33.3* MCHC-35.2 RDW-13.5 RDWSD-46.5*
___ 12:00PM   ALBUMIN-3.7 CALCIUM-7.9* PHOSPHATE-4.3 
MAGNESIUM-1.4*
___ 12:00PM   ALT(SGPT)-106* AST(SGOT)-91* LD(LDH)-428* ALK 
PHOS-58 TOT BILI-2.2*
___ 12:00PM   GLUCOSE-168* UREA N-11 CREAT-0.7 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-15* ANION GAP-25*
___ 12:11PM   LACTATE-4.9*
___ 12:11PM   ___ PO2-80* PCO2-39 PH-7.36 TOTAL CO2-23 
BASE XS--2
___ 04:00PM   LACTATE-3.9*
___ 04:00PM   ___ PO2-70* PCO2-39 PH-7.39 TOTAL CO2-24 
BASE XS-0
___ 09:56PM URINE  MUCOUS-FEW
___ 09:56PM URINE  AMORPH-MOD
___ 10:50PM   TYPE-ART TEMP-38.7 RATES-28/ TIDAL VOL-400 
PEEP-12 O2-100 PO2-67* PCO2-65* PH-7.20* TOTAL CO2-27 BASE XS--3 
AADO2-584 REQ O2-96 AS/CTRL-ASSIST/CON INTUBATED-INTUBATED
___ 10:50PM   LACTATE-3.9* K+-4.8
___ 10:50PM   O2 SAT-85
___ 10:50PM   freeCa-1.05*
___ 10:00PM   ___ PO2-73* PCO2-70* PH-7.17* TOTAL 
CO2-27 BASE XS--4
___ 09:57PM   GLUCOSE-223* UREA N-12 CREAT-1.0 SODIUM-137 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-22 ANION GAP-19
___ 09:57PM   CALCIUM-7.5* PHOSPHATE-4.8* MAGNESIUM-1.9
___ 09:57PM   WBC-17.2* RBC-5.16 HGB-17.2 HCT-50.9 MCV-99* 
MCH-33.3* MCHC-33.8 RDW-13.7 RDWSD-50.5*
___ 09:57PM   PLT COUNT-211
___ 09:56PM URINE  HOURS-RANDOM
___ 09:56PM URINE  UHOLD-HOLD

___ 08:59AM BLOOD WBC-14.0*# RBC-3.32* Hgb-10.1* Hct-31.5* 
MCV-95 MCH-30.4 MCHC-32.1 RDW-14.4 RDWSD-49.7* Plt ___
___ 04:26AM BLOOD WBC-21.9* RBC-3.10* Hgb-9.2* Hct-28.7* 
MCV-93 MCH-29.7 MCHC-32.1 RDW-14.4 RDWSD-48.7* Plt ___
___ 06:30AM BLOOD WBC-26.4* RBC-2.97* Hgb-8.8* Hct-27.4* 
MCV-92 MCH-29.6 MCHC-32.1 RDW-14.4 RDWSD-48.8* Plt ___
___ 05:41AM BLOOD WBC-30.6* RBC-2.80* Hgb-8.3* Hct-24.8* 
MCV-89 MCH-29.6 MCHC-33.5 RDW-14.1 RDWSD-45.4 Plt ___
___ 06:50AM BLOOD WBC-20.0* RBC-3.22* Hgb-9.5* Hct-28.7* 
MCV-89 MCH-29.5 MCHC-33.1 RDW-13.6 RDWSD-44.7 Plt ___
___ 10:40AM BLOOD WBC-18.0* RBC-3.06* Hgb-9.0* Hct-27.4* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-13.5 RDWSD-44.0 Plt ___
___ 05:25AM BLOOD WBC-14.9* RBC-2.99* Hgb-8.8* Hct-26.6* 
MCV-89 MCH-29.4 MCHC-33.1 RDW-13.3 RDWSD-43.5 Plt ___

___ 06:30AM BLOOD Glucose-86 UreaN-21* Creat-3.5*# Na-133 
K-3.7 Cl-91* HCO3-27 AnGap-19
___ 07:00AM BLOOD Glucose-105* UreaN-37* Creat-3.7*# Na-134 
K-3.5 Cl-92* HCO3-26 AnGap-20
___ 09:20AM BLOOD Glucose-105* UreaN-21* Creat-2.8* Na-135 
K-3.8 Cl-92* HCO3-25 AnGap-22*
___ 06:50AM BLOOD Glucose-107* UreaN-28* Creat-2.6* Na-129* 
K-3.9 Cl-91* HCO3-23 AnGap-19
___ 10:40AM BLOOD Glucose-118* UreaN-29* Creat-2.1* Na-133 
K-3.8 Cl-94* HCO3-24 AnGap-19
___ 05:25AM BLOOD Glucose-90 UreaN-29* Creat-1.7* Na-137 
K-4.0 Cl-99 HCO3-23 AnGap-19
 
Brief Hospital Course:
MEDICAL HOSPITAL COURSE:

___ yo M with no PMH who presents with abdominal pain, found to 
have lipase of 13K consistent with pancreatitis, GPC bacteremia 
now s/p ex-lap to improve oxygenation to be transferred to SICU 
___.

# Acute Pancreatitis: Presented with lipase ___ to OSH c/w 
pancreatitis. While patient has history of EToH intake, the 
episode of pancreatitis was most likely secondary to a traumatic 
episode to the upper abdomen. Reportedly had CBD stone on 
informal ultrasound at ___ no biliary dilation or stone 
identified here. ERCP attempted ___ but unable to visualize or 
cannulate papillae given significant gut edema.  Triglycerides 
was normal. Fulminant course was not c/w autoimmune 
pancreatitis.  Pancreatitis was complicated by firm and 
distended abdomen raising concner for compartment syndrome. 
Given difficulty ventilating (see below), he underwent bedside 
ex lap ___.  He was transferred to the surgical ICU for further 
care.

# Distributive Shock:
# GPC bacteremia:
Shock likely primarily distribute ___ pancreatitis and 
bacteremia. Blood cultures resulted as ... Required pressors in 
setting of intubation and positive pressure. He was aggressively 
bolused with IVF. Started on vanc/ meropenem (___) 

#Hypoxemic and hypercarbic respiratory failure: He became 
increasingly tachypneic throughout the day. At ERCP on HD1 he 
became hypoxemic with significant difficulty oxygenating and 
ventilating requiring paralysis and very high peak pressures. 
This was likely secondary to high abdominal compartment 
pressures leading to restrictive physiology, low lung volumes, 
worsening v/q mismatch, also possibly ARDS i/s/o pancreatitis. 
With paralysis his oxygenation only improved slightly, 
ultimately hastening surgical consult and ultimately leading to 
a bedside ex-lap to relieve high compartment pressures. 
# renal failure- Oligouric/anuric, most likely ATN. Patient 
underwent multiple treatments of hemodialysis. Prior to 
discharge, his kidney function improved and he started urinating 
on his own. His last HD was ___, and his HD access 
line was removed prior to discharge to rehab per the nephrology 
team. 

CHRONIC ISSUES: 

# History of alcohol abuse: denied issues w/etoh initially but 
then reported ___ night binge drinking.   Started on versed drip 
given risk of withdrawal. 

# Chronic inflammatory Demyelinating Polyneuropathy: Very 
marked. Has had nerve conduction studies but no formal 
diagnosis. Has family history of neuropathies (___ 
and ___'s). 

# Communication:  Family member name: ___
 ___ member relationship: Father
 ___ contact number: ___
# Code:  Full 

SURGICAL ICU COURSE:

Following emergent beside exploratory-laparotomy, the patient 
was transferred to the surgical ICU. His pressors were weaned. 
His ventilatory status improved dramatically and his paralysis 
was stopped. His creatinine continued to rise and renal was 
consulted. The patient was started on CVVH. Overnight on POD1, 
the patient was brought back to the OR for wash-out and Abthera 
VAC placement.

___ - taken to MRCP where he was found to have large amount of 
edema of duodenum with major and minor papillae visualized but 
unable to access, suspect severe pancreatitis. There was 
hypoxemic, unable to oxygenate well, requiring paralysis.  
 ___ - Difficulty ventilating PEEP to 20; PIPs in ___  
 Surgery evaluated and suspected abdominal compartment syndrome, 
performed bedside xlap. Respiratory status better. Transferred 
to SICU. Cr rising, UOP declined despite 4L additional IVF 
boluses. Renal team found muddy brown casts and elongated casts 
in urine suggestive of acute on chronic renal failure. R IJ 
dialysis line placed, CVVH started. Continuing vanc/zosyn for 
necrotizing pancreatitis.  
 ___: high CVVH pressures o/n improved w/ catheter adjustment, 
lipemic blood samples in AM, attempted to wean propofol with 
precedex, agitation problems, dilaudid/ketamine started, peep 
weaned  
 ___: to OR, ___ placed, ABThera placed, higher PIPs in AM, 
LUE PICC placed  
 ___: Ketamine d/c'd due to hallucinations. Eye drops started, 
TFs being advanced. New rash on b/l legs. D/c'd dilaudid gtt due 
to respiratory depression, transitioned to bolus dosing. Started 
dexmedatomidine.  
 ___: OR for ___ patch with ACS, on spont vent during the 
day on prop only, tachypneic in ___, added low dose fent and 
increased prop, pan cx, foley out, started vanc/zosyn for 
uptrending WBC and low grade fever, restart TF post-op, ABG with 
decreased pH, placed back on rate  
 ___: decreased TF to 75 mL/h from 105 mL/h given VCO2 in 440s 
and concern for overfeeding; CTA pancreas and chest showed 
necrotizing pancreatitis, non-occlusive SMV thrombus, no PE, and 
bibasilar atelectasis; started heparin gtt for SMV thrombus; 
stopped CRRT with plan to start iHD tomorrow; started on 
Precedex to limit propofol gtt; febrile to 103 despite Tylenol 
o/n.  
 ___: Min pressure support ___, 40% Fio2. OR today for 
tightening of Whitmann patch. Day 4 of phenobarb taper. 
Propofol@60, precedex@1.4, fent@200, intermittent propofol 
boluses. Spiking fevers to 103 o/n, continued on vanc/zosyn for 
PNA vs infected pancreatitis. Hep gtt@ 1850. +14L for stay.  
 ___: S/p ___ patch after 1 cm of reduction. Spiking fever 
of 103 early AM. WBC count 30 --> 50. Net even fluid balance. 
DCD vanc/zosyn, started meropenem/flagyl. Diflucan loading dose 
given, then DCD. BCx (including fungal Cx) & sputum Cx sent. TF 
decreased 55->30; then stopped at 4PM. Soap suds enema given for 
no BM x4 days. Cdiff+. Miconazole powder switched to topical 
cream for groin. Dermatology c/s placed for all over body & 
groin rashes: suggest these represent drug rash. CVVH restarted. 
 
 ___: stopped fentanyl gtt and transitioned to dilaudid gtt, 
started vancomycin PO + PR. CT A/P negative for gas in the 
pancreatic bed  
 ___: to OR for ___ patch tightening by 1.5 inches, stopped 
meropenem and now on PO vancomycin  
 ___ Afebrile overnight, New acquired history of traumatic 
injury from wooden board hitting him in the abdomen 5 days prior 
to hospitalization. Presentation suspicious for pancreatic 
transection, MRCP and ERCP on hold, held and restarted hep gtt + 
CRRT, - 2 L off, ptt 62.8 -> 61.8, restarted on CMV after 
worsening academia, hypercarbia  
 ___: Lactate 1.4 Hep gtt@3050. MRCP done. L IJ trialysis line 
placed. CVVH restarted however DCD after 30 min due to machine 
clogging. In afternoon, HR 140s, SBP 75, MAP ___ Neo 
restarted, IV ___ restarted. ___ negative for DVT. 
RUQ U/S negative for gallstones/CBD dil/distension. Hep gtt held 
for 3 hrs during removal of R IJ CVL and before ACS (Dr. ___ 
completed bedside washout with minimal serosang fluid removed, 
___ patch closed 1.5cm with peak airway pressure 33. Hep 
gtt restarted @3050.  
 ___: B/L UE ___ negative for major DVT. TTE EF 70%, normal 
global function. MRCP: patent pancreatic duct, necrosis at 
distal tip of pancreas progressed from previous MRI. WBC 45.6. 
Lactate 1.6. ETT replaced through bougie and video laryngoscope 
due to pt. biting on pilot balloon.  
 ___: WBC 46.6. Restarted tube feeds after MRCP showed patent 
duct. HD switched to CRRT for optimal diuresis, d/c'ed at 10pm 
due to clotting of cartridge. L PICC removed after placement of 
R IJ triple lumen CVL. PTT supratherapeutic, heparin gtt 
held/decreased. IV vanc dose held due to trough of 27.  
 ___: Febrile to 102, repeat BCx sent, given IV Tylenol, started 
tube feeds, held for OR. To OR with ACS, fascia closed, vac in 
place. Tachy to 150s immediately post-op, given HD, received 2.5 
mg of metop and required neo during HD. Net 3 L off, weaned 
pressors post HD. Switched from CMV to pressure support. Started 
lorazepam gtt for sedation with PRN dilaudid.  
 ___: Started daily EKGs, QTc 490. WBC 20. Temp 101.3 @0700, 
continued w/ low grade temps, HR 140s, cultures resent. HD -3L. 
Consented for tracheostomy ___, TF held@ MN. Given Albumin 25% 
50cc.  
 ___: Hep gtt held on call to OR. HD 3 L off.  
 Taken to Or for open trach. No complications. Agitated on 
arrival required 6mg of dilaudid.  
 ___: Heparin drip restarted at 2100 ptt at 9AM,T max 102.5, 
febrile twice over night. Tolerated trach collar well all day 
with good ABGs, put back on CPAP ___ at night due to mild 
increased respiratory effort. Pain and agitation well 
controlled. EKG after starting methadone showed QTc 436, down 
from 446. CRRT all day without issue, clotted and held at night. 
Severe agitation o/n with SBP 180s, given extra bolus of Ativan 
and drip increased to 3.  
 ___: continue CRRT, restart Haldol PRN, QTC 396 on ECG, 
continue TF, continue hep gtt, wean Ativan to 2, transfuse 1 U 
PRBC for HCT 21, trach mask trial, acutely agitated in ___ 
requiring stat haldol dilaudid and lorazepam, SC x 1, CRRT 
filter clogged, kept off overnight into ___ per renal attending 
 
 ___: Straight-cathed for ~100cc, UA/UCx sent. Trial on trach 
mask: tolerated for 4 hours then was placed on pressure support. 
Became intermittently agitated in the evening and required 
Seroquel 50 x1, 8mg dilaudid and 1mg Ativan boluses in addition 
to increased rates of dilaudid gtt @4 and Ativan gtt @4. HD -3L. 
Received 500cc 5% albumin for tachycardia to 150 with 
appropriate response. Given Benadryl 50mg for rash, some 
improvement in pruritis.  
 ___: Sedation improved on increased doses of diazepam, 
Seroquel. Started clonidine patch. Methadone increased (now 15 
Q4H) with IV dilaudid prn. d/c'd Ativan. HD with 3.3 L off, 
tolerated well. Straight cath for urine 400ml. Tolerating trach 
mask >24 hours. DCed A line. Given 1 unit pRBC for Hct 20.3. QTc 
410, Seroquel QHS increased to 200.  
 ___: Vac change ___. ___ evaluated/consented for tunneled HD 
line planned for ___. Tachy 150-160s sitting in chair, resolved 
in evening after being in bed. Slept >6 hours o/n, stable on 
current regimen.  
 ___ had tunneled HD line placed on the left, Speech and 
swallow evaluation for passy muir valve, failed ___ agitation 
and high tracheal pressures. HD removed 700cc today. Continued 
on TFs. WBC down to 3. Continued tachycardia, improved with 
dilaudid. Father of pt expressing concerns over ice chips 
(allowed vs. not allowed) and WBC.  
 ___: Blood and urine cx sent, due to leukopenia, c/f possible 
occult infection. Cannot downsize trach for 3 weeks per primary 
team. 12pm valium dose held due to hypoventilation and elevated 
pCO2 on venous gas, improved later in the day. Somnolent after 
OOB to chair and ___, so pm valium also held after discussion w/ 
pharmacy. Daytime Seroquel discontinued due to concern for 
sleepiness and possible leukopenia, keeping nighttime dose.  
 ___: ANC 124, placed on neutropenic precautions. Question of 
erythema around R IJ site (appears to be skin irritation); no 
fevers, WBC 3.1, felt by Dr. ___ to be the result of rxn to 
PO/PR vanco. Following discussion with ID service: IV flagyl 
DCD, PO/PR vanco DCD; placed on PO Flagyl 500 q8. HD negative 
2.5L.  
 ___: d/c'd Aluminum hydroxide. Renal plans HD ___. d/c'd 
Seroquel. PIVs placed, d/c'd R IJ CVL. Flexiseal removed. 
Blanching erythema and slight induration noted around tunneled 
line. Paged ___ for evaluation.  
 ___: failed PMV trial, continued hep gtt, pending CT ___ with 
HD to follow  
 ___: failed PMV trial again, CT abd/pelvis with multiple 
collections that are organizing; HD in the afternoon; vanc level 
<2.5; urine ordered to be sent tomorrow after straight cath for 
AIN work-up.  
 ___: Methadone decreased to 10 q6h. Bowel regimen added due to 
severe pain with BMs o/n. Slept all night without issue. Urine 
smear negative for eosinophils.0
___: Removed trach after dislodged overnight, WBC up to ___, 
passed speech/swallow, given diet,, UA/UCx, WBC up to 21 AM 
___, restarted PO metronidazole 

The patient was then transferred to the floor and remained 
stable for the remainder of his hospital course, without 
abdominal pain. His white blood cell count downtrended prior to 
discharge, and he remained afebrile. He started to tolerate a po 
diet and his dobhof tube feeds were discontinued after adequate 
po intake. He completed a 10-day course of po flagyl for cdif 
and repeat c dif testing was negative. He continued to undergo 
wound vac changes for his midline wound and will go to rehab 
with a wound vac in place. Prior to discharge, the patient 
started urinating and had improved renal function. Per 
nephrology, he no longer needed HD and his HD access was removed 
prior to discharge. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild  
2.  Artificial Tears ___ DROP BOTH EYES TID:PRN dry eyes  
3.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation  
4.  Clonidine Patch 0.2 mg/24 hr 1 PTCH TD QSUN  
5.  Diazepam 5 mg PO BID  
6.  DiphenhydrAMINE 25 mg PO QHS:PRN itching  
7.  Docusate Sodium 100 mg PO BID:PRN constipation  
8.  Famotidine 20 mg PO DAILY  
9.  Lanthanum 500 mg PO TID W/MEALS  
10.  Methadone 20 mg PO DAILY 
RX *methadone 10 mg 2 by mouth daily Disp #*60 Tablet Refills:*0 

11.  MetroNIDAZOLE 500 mg IV Q8H 
final day ___   
12.  Milk of Magnesia 30 mL PO Q6H:PRN constipation  
13.  Ondansetron ___ mg PO Q8H:PRN nausea  
14.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 to 6 hours 
Disp #*40 Tablet Refills:*0 
15.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
16.  Sarna Lotion 1 Appl TP QID:PRN itch  
17.  Senna 8.6 mg NG BID:PRN constipation  
18.  Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 
 
19.  ___  MD to order daily dose PO DAILY16  
20.  Warfarin 1 mg PO ONCE Duration: 1 Dose  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Necrotizing pancreatitis secondary to trauma
Acute kidney injury secondary to abdominal compartment syndrome
Clostridium difficile colitis
Neutropenia
Malnutrition 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the acute care surgery service for 
management of necrotizing pancreatitis secondary to trauma. This 
was complicated by abdominal compartment syndrome, requiring 
bedside decompressive exploratory laparotomy on ___, 
hemodialysis for kidney failure, tube feeding for malnutrition, 
and tracheostomy. You are being discharged to rehab in stable 
condition off tube feeds with your tracheostomy removed. Please 
follow the below directions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___